US06093718
A solution (200 ml) of ethyl acetate saturated with hydrogen chloride was added to a mixture of 1-(4-bromophenylsulphonyl)-4-[1-(t-butoxycarbonyl)piperazin-4-ylcarbonyl]piperazine and ethyl acetate (200 ml) . The mixture was stirred overnight. The solvent was removed by evaporation to give 1-(4-bromophenylsulphonyl)-4-(1-piperazinylcarbonyl)piperazine hydrochloride (16.30 g).

reactant | hydrogen chloride | Cl | ClH
reactant | 1-(4-bromophenylsulphonyl)-4-[1-(t-butoxycarbonyl)piperazin-4-ylcarbonyl]piperazine | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C20H29BrN4O5S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-bromophenylsulphonyl)-4-(1-piperazinylcarbonyl)piperazine hydrochloride | 16.30 g | Cl.BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)N1CCNCC1 | InChI=1S/C15H21BrN4O3S.ClH/c16-13-1-3-14(4-2-13)24(22,23)20-11-9-19(10-12-20)15(21)18-7-5-17-6-8-18;/h1-4,17H,5-12H2;1H
